US05189205
Glycine benzyl ester isocyanate:
Carbon dioxide was added subsurface to a dichloromethane (20 mL) solution containing glycine benzyl ester p-toluenesulfonic acid salt (0.01 mol, 3.37 g) and triethylamine (0.04 mol, 4.0 g) at -10° C. (ice and salt bath) for 30 min at a pressure of 0 psig. The reaction mixture was transferred via cannula all at once under carbon dioxide to the precooled solution of phosphorus oxychloride (0.01 mol, 1.6 g) in 20 mL dichloromethane. After stirring for 20 min at -10° C. diethylether (40 mL) was added to the reaction mixture. A white ppt formed and was filtered off. The filtrate was concentrated in vacuo and the residue was extracted with 3×20 mL diethylether. The ether layers were concentrated and the residue distilled under vacuum (ca. 0.1-0.3 torr) collecting product, glycine benzyl ester isocyanate, at 105°-106° C. (0.91 g, 47.5%) of 98% purity as judged by GC. IR (neat) 2253, 1747 cm-1. 1H NMR (CDCl3) δ 7.37 (s, 5H), 5.24 (s, 2H), 3.96 (s, 2H) ppm.

reactant | Carbon dioxide | C(=O)=O | CO2
reactant | glycine benzyl ester p-toluenesulfonic acid salt | 0.01 mol, 3.37 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CN)=O
reactant | triethylamine | 0.04 mol, 4.0 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 0.01 mol, 1.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | diethylether | 40 mL | C(C)OCC | C4H10O
product | Glycine benzyl ester isocyanate | [N-]=C=O.C(C1=CC=CC=C1)OC(CN)=O | InChI=1S/C9H11NO2.CNO/c10-6-9(11)12-7-8-4-2-1-3-5-8;2-1-3/h1-5H,6-7,10H2;/q;-1
